* OVERALL BEST CANDIDATE: 00_Phase_2_5V_to_48V_Phantom_Power_Boost_1_9_6_g1_cand3_b8
* FITNESS SCORE: 0.6119
*
* Generated: 2026-06-02T20:57:04
* Constraint: Phase 2: 5V to 48V Phantom Power (Boost - 1:9.6)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 48
*   efficiency_target = 0.85
*   power_in = 60
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 4.5V to 48V boost, D=875m, t_on=8.75u
Vin in 0 4.5
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 6
Vgate gate 0 PULSE(0 12 0 1n 1n 8.75u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
