* OVERALL BEST CANDIDATE: 00_Phase_1_5V_to_9V_Pedal_Power_Boost_g1_cand2_b6
* FITNESS SCORE: 0.9814
*
* Generated: 2026-06-04T14:22:34
* Constraint: Phase 1: 5V to 9V Pedal Power (Boost)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 9
*   efficiency_target = 0.77
*   power_in = 10
* Candidate: 2 of 12
* Grouped name: g1_cand2
*
* 5V to 9V Boost
Vin in 0 5
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 1
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
