* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_6
* Fitness: 0.9882
*
* --- Active Constraints ---
* _comment: Phase 1: 5V to 9V Pedal Power (Boost)
* vin_min: 4.5
* vin_max: 5.5
* vout_target: 9
* efficiency_target: 0.77
* power_in: 10
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 9.428619
* efficiency: 0.834794
* total_volume_cm3: 34.923474
* total_components: 4
* ============================

* 5V to 9V Boost
Vin in 0 5
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 220u
Rload out 0 0.9
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end